US04424359
0.9 g (1.7 mmols) of [3-methyl-2,2'-bipyridin-6-yl-(methylene)]-triphenylphosphonium bromide monohydrate is dissolved in a well stirred emulsion consisting of 15 ml of 35% formaldehyde solution, 20 ml of dichloromethane, 5 mg of di-tert.-butyl-p-cresol and 22 mg of tetrabutylammonium cyanide. A solution of 0.5 g of sodium hydroxide in 2.5 ml of water is added dropwise at 25° C. After stirring for 1 hour at 23° C., the dichloromethane phase is separated off and washed with 20 ml of water. After the addition of 5 mg of di-tert.-butyl-p-cresol, the mixture is concentrated in vacuo and 20 ml of dilute hydrochloric acid are added to the residue. The precipitating crystalline triphenylphosphine oxide is washed with three times 20 ml of ethyl acetate. The aqueous phase is covered with a layer of 20 ml of ethyl acetate and rendered alkaline with potassium carbonate. The organic phase is dried over sodium sulfate and freed from solvent in vacuo. After renewed addition of 5 mg of di-tert.-butyl-p-cresol, the residue is distilled in a bulb tube oven at a maximum of 150° C./0.93 Pa. 0.24 g (71% of theory) of 3-methyl-6-vinyl-2,2'-bipyridine are obtained as a colourless liquid. UV absorption (in chloroform): λ=250 nm (ε=15,450); λ=293 nm (ε=7,700).

reactant | [3-methyl-2,2'-bipyridin-6-yl-(methylene)]-triphenylphosphonium bromide monohydrate | 1.7 mmols, 0.9 g | O.[Br-].CC=1C(=NC(=CC1)C=C1C(C=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1)C1=NC=CC=C1
reactant | formaldehyde | 15 ml | C=O | CH2O
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
catalyst | tetrabutylammonium cyanide | 22 mg | [C-]#N.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 2.5 ml | O | H2O
catalyst | di-tert.-butyl-p-cresol | 5 mg | C(C)(C)(C)C1=C(C(=CC=C1C)O)C(C)(C)C | C15H24O
product | 3-methyl-6-vinyl-2,2'-bipyridine | 0.24 g, 71% | CC=1C(=NC(=CC1)C=C)C1=NC=CC=C1 | C13H12N2
